US09079889B2
Method 1 was followed using 6-bromo-5-fluoropicolinic acid (1.0 equiv.) and 4,4,5,5-tetramethyl-2-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)-1,3,2-dioxaborolane (2.0 equiv.) and Pd(dppf)Cl2-DCM (0.2 equiv.) to give 5-fluoro-6-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)picolinic acid. LC/MS=280.2 (M+H), Rt=0.66 min.

reactant | 6-bromo-5-fluoropicolinic acid | 1.0 equiv. | BrC1=C(C=CC(=N1)C(=O)O)F | C6H3BrFNO2
reactant | 4,4,5,5-tetramethyl-2-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)-1,3,2-dioxaborolane | 2.0 equiv. | CC1(OB(OC1(C)C)C1=CCC2(OCCO2)CC1)C | C14H23BO4
catalyst | Pd(dppf)Cl2 DCM | 0.2 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 5-fluoro-6-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)picolinic acid | FC=1C=CC(=NC1C1=CCC2(OCCO2)CC1)C(=O)O | C14H14FNO4
